US04933355
Ethyl 2-(3-p-chlorophenylureido)thiazol-4-ylglyoxylate
Following a procedure similar to that described in Preparation 1, the desired compound was prepared from 10 g of ethyl 2-aminothiazol-4-ylglyoxylate, 8.6 g of p-chlorophenyl isocyanate and 100 ml of dimethylformamide. The resulting product was a yellow powder having the following physical properties.

reactant | ethyl 2-aminothiazol-4-ylglyoxylate | 10 g | NC=1SC=C(N1)C(C(=O)OCC)=O | C7H8N2O3S
reactant | p-chlorophenyl isocyanate | 8.6 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | Ethyl 2-(3-p-chlorophenylureido)thiazol-4-ylglyoxylate | ClC1=CC=C(C=C1)NC(NC=1SC=C(N1)C(C(=O)OCC)=O)=O | C14H12ClN3O4S
